US06605624B1
To 16.5 g of methyl 6-(difluoromethyl)-4-(2-methylpropyl) -5-(methoxycarbonyl)-2-(trifluoromethyl)-a-oxo-3-pyridineacetate (prepared by example E of U.S. Pat. No. 5,298,479) in 60 ml of methylene chloride was added 25 ml of concentrated ammonium hydroxide. The reaction mixture was stirred for 2 h and the aqueous layer was saturated with NaCl and the organic was extracted into methylene chloride. The methylene chloride layer was dried (MgSO4) and concentrated in vacuo. The residue was recrystallized from 20% EtOAc-benzene to give 12.5 g of 6-(difluoromethyl) -4-(2-methylpropyl)-5-(methoxycarbonyl)-2-(trifluoromethyl)-a-oxo-3-pyridineacetamide. A mixture of 2.4 g of this material, 2.0 g of phosphorus pentasulfide , 2 g of Celite and 16 ml of toluene was held at reflux for 2 h. The mixture was filtered and concentrated in vacuo. The residue was purified by column chromatography on silica gel (20% EtOAc in hexane) to give an oil which crystallized from 3% EtOAc in hexane as a solid.

reactant | methyl 6-(difluoromethyl)-4-(2-methylpropyl) -5-(methoxycarbonyl)-2-(trifluoromethyl)-a-oxo-3-pyridineacetate | 16.5 g | FC(C1=C(C(=C(C(=N1)C(F)(F)F)C(C(=O)OC)=O)CC(C)C)C(=O)OC)F | C16H16F5NO5
reactant | ammonium hydroxide | 25 ml | [OH-].[NH4+]
reactant | NaCl | [Na+].[Cl-]
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | 6-(difluoromethyl) -4-(2-methylpropyl)-5-(methoxycarbonyl)-2-(trifluoromethyl)-a-oxo-3-pyridineacetamide | 12.5 g | FC(C1=C(C(=C(C(=N1)C(F)(F)F)C(C(=O)N)=O)CC(C)C)C(=O)OC)F | C15H15F5N2O4
